US07220744B2
a) Rac-(3,3,3-Trifluoro-1-methyl-propylsulfanyl)-benzene
To a solution of 54.9 mmol 3-iodo-1,1,1-trifluorobutane in 50 ml N,N-dimethylformamide were added 49.9 mmol thiophenol and 74.9 mmol potassium carbonate. The mixture was ultrasonicated at room temperature for 90 min. The reaction mixture was then diluted with ether and was washed three times with water. The organic phase was dried over sodium sulfate and concentrated in vacuo to afford the title compound as a colourless oil (yield 79%). MS (m/e): 221.3 (M+, 15%).

reactant | 3-iodo-1,1,1-trifluorobutane | 54.9 mmol | IC(CC(F)(F)F)C | C4H6F3I
reactant | thiophenol | 49.9 mmol | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 74.9 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Rac-(3,3,3-Trifluoro-1-methyl-propylsulfanyl)-benzene | yield 79% | FC(CC(C)SC1=CC=CC=C1)(F)F | C10H11F3S
